US07687627B2
(S)-N-{3-[4-(4-Fluoro-4-aminomethylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The title compound was prepared by reacting (S)-N-{3-[4-(4-fluoro-4-azidomethylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (0.73 mmol) with triphenylphosphine (1.27 mmol) in tetrahydrofuran (10 ml) at a temperature 25° C. for six hours and then refluxing for overnight after addition of drop of water followed by purification using silica gel column chromatography in 67% yield.

reactant | (S)-N-{3-[4-(4-fluoro-4-azidomethylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 0.73 mmol | FC1(CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)CN=[N+]=[N-] | C18H22F2N6O3
reactant | triphenylphosphine | 1.27 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (S)-N-{3-[4-(4-Fluoro-4-aminomethylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 67% yield | FC1(CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)CN | C18H24F2N4O3
